US07320974B2
(R)4-((1R,13R,15R,Z)-15-Hydroxy-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadec-8-en-15-yl)thiazolidin-2-one, Compound 10a
Application of the method shown in Example 46, with the modification that (R)-4-((1R,13R,15R,Z)-15-methoxy-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadec-8-en-15-yl)-3-(4-methoxybenzyl)thiazolidin-2-one was substituted for (R)-4-((1R,4Z,8Z,13R,15R)-15-methoxy-5-methyl-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadeca-4,8-dien-15-yl)-3-(4-methoxybenzyl)thiazolidin-2-one, afforded the title compound.

reactant | (R)-4-((1R,13R,15R,Z)-15-methoxy-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadec-8-en-15-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | CO[C@]1(O[C@@H]2CCC\C=C/CCCCC(O[C@@H](C1)C2)=O)[C@H]2N(C(SC2)=O)CC2=CC=C(C=C2)OC | C27H37NO6S
reactant | (R)-4-((1R,4Z,8Z,13R,15R)-15-methoxy-5-methyl-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadeca-4,8-dien-15-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | CO[C@]1(O[C@@H]2CCC\C=C/CC\C(=C/C(O[C@@H](C1)C2)=O)\C)[C@H]2N(C(SC2)=O)CC2=CC=C(C=C2)OC | C28H37NO6S
product | (R)4-((1R,13R,15R,Z)-15-Hydroxy-3-oxo-2,14-dioxa-bicyclo[11.3.1]heptadec-8-en-15-yl)thiazolidin-2-one | O[C@]1(O[C@@H]2CCC\C=C/CCCCC(O[C@@H](C1)C2)=O)[C@H]2NC(SC2)=O | C18H27NO5S
